US08198453B2
Step 8. tert-Butyl (2S,4R)-1-azido-7-chloro-4-(hydroxymethyl)heptan-2-ylcarbamate
The (3R,5S)-tert-butyl 5-(azidomethyl)-3-(3-chloropropyl)-2-oxopyrrolidine-1-carboxylate (10.11 g, 31.9 mmol, 10. equiv) was dissolved in 200 mL of MeOH. Solid NaBH4 was added in ˜1 g portions at a rate to maintain the reaction temperature at ˜27° C. Subsequent portions of NaBH4 were added only after the previous charge had completely dissolved. After the addition of ˜3 g of NaBH4 (˜80 mmol, 2.5 equiv) over a 3 h period, LC/MS analysis showed >95% conversion to the desired alcohol. The residual hydride reagent was quenched by cooling the mixture to 0° C. and carefully adding 1.0 M HCl until H2 evolution ceased. The methanol was removed in vacuo and the mixture diluted with ˜200 mL of EtOAc. The mixture was transferred to a separatory funnel and the layers separated. The aqueous layer was extracted with additional EtOAc and the combined organic layers washed with brine, dried over Na2SO4, filtered through a pad of silica and evaporated. This yielded ˜10 g of tert-butyl (2S,4R)-1-azido-7-chloro-4-(hydroxymethyl)heptan-2-ylcarbamate which possessed sufficient purity to employ in the subsequent step with no further purification.

reactant | (3R,5S)-tert-butyl 5-(azidomethyl)-3-(3-chloropropyl)-2-oxopyrrolidine-1-carboxylate | 31.9 mmol, 10.11 g | N(=[N+]=[N-])C[C@@H]1C[C@H](C(N1C(=O)OC(C)(C)C)=O)CCCCl | C13H21ClN4O3
reactant | NaBH4 | [BH4-].[Na+]
reactant | NaBH4 | ˜80 mmol, ˜3 g, 2.5 equiv | [BH4-].[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | tert-Butyl (2S,4R)-1-azido-7-chloro-4-(hydroxymethyl)heptan-2-ylcarbamate | N(=[N+]=[N-])C[C@H](C[C@@H](CCCCl)CO)NC(OC(C)(C)C)=O | C13H25ClN4O3
